* Five-Transistor OTA DUT
* PTM 180nm CMOS
*
* Ports:
*   INP   non-inverting input
*   INN   inverting input
*   OUT   single-ended output
*   VDD   positive supply
*   VSS   ground
*   VBIAS tail NMOS gate bias

.subckt five_transistor_ota INP INN OUT VDD VSS VBIAS

* NMOS differential pair
M0 OUT  INP TAIL VSS NMOS L=1u W=20.0u m=1
+ ad=5.4000e-12 as=5.4000e-12 pd=2.4320e-05 ps=2.4320e-05 nrd=0.0135000 nrs=0.0135000
M1 NETD INN TAIL VSS NMOS L=1u W=20.0u m=1
+ ad=5.4000e-12 as=5.4000e-12 pd=2.4320e-05 ps=2.4320e-05 nrd=0.0135000 nrs=0.0135000

* PMOS current-mirror active load
M3 OUT  NETD VDD VDD PMOS L=1u W=16.0u m=1
+ ad=4.3200e-12 as=4.3200e-12 pd=2.0320e-05 ps=2.0320e-05 nrd=0.0168750 nrs=0.0168750
M4 NETD NETD VDD VDD PMOS L=1u W=16.0u m=1
+ ad=4.3200e-12 as=4.3200e-12 pd=2.0320e-05 ps=2.0320e-05 nrd=0.0168750 nrs=0.0168750

* NMOS tail current source
M5 TAIL VBIAS VSS VSS NMOS L=1u W=12.0u m=1
+ ad=3.2400e-12 as=3.2400e-12 pd=1.6320e-05 ps=1.6320e-05 nrd=0.0225000 nrs=0.0225000

.ends five_transistor_ota

