* Five-Transistor OTA — Output Noise Testbench

VDD_SRC   vdd   0 DC 1.8
VSS_SRC   vss   0 DC 0
VBIAS_SRC vbias 0 DC 0.72
VINP_SRC  inp   0 DC 0.9 AC 1
VINN_SRC  inn   0 DC 0.9

.include /mnt/e/MyResearch/Mixed_ngspice/test/ota_work/netlists/dut/five_transistor_ota_dut.cir
XOTA inp inn out vdd vss vbias five_transistor_ota

RLOAD out vss 1e+09
CLOAD out vss 1.000000e-12

.include /mnt/e/MyResearch/analog-circuit-skills/five_transistor_ota/assets/models/ptm180.lib
.options RELTOL=1e-4 ABSTOL=1e-12 VNTOL=1e-7 ITL4=80

.control
noise V(out, vss) VINP_SRC dec 80 1 1e+08
setplot noise1
wrdata /mnt/e/MyResearch/Mixed_ngspice/test/ota_work/logs/ota_noise_freq.txt frequency
wrdata /mnt/e/MyResearch/Mixed_ngspice/test/ota_work/logs/ota_noise_onoise.txt onoise_spectrum
.endc

.end

